US07235559B1
A mixture of 2-bromoethylamine hydrobromide (5.00 g, 24.4 mmol), di(tert-butyl)-dicarbonate (6.12 g, 28.1 mmol), triethylamine (7.14 ml, 51.2 mmol) and dimethylaminopyridine (0.3 g, 2.44 mmol) in dichloromethane (50 ml) was stirred at room temperature for 5 hours. The reaction was poured into water, extracted with ethyl acetate, washed with a saturated solution of sodium chloride, dried, filtered and concentrated to give an oil. Purified by flash chromatography on silica gel, eluting with 10% ethyl acetate in hexane yielded 1-tert-butyloxycarbonyl-2-bromo ethylamine (2.3 g, 42% yield):

reactant | 2-bromoethylamine hydrobromide | 24.4 mmol, 5.00 g | Br.BrCCN
reactant | di(tert-butyl)-dicarbonate | 28.1 mmol, 6.12 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 51.2 mmol, 7.14 ml | C(C)N(CC)CC | C6H15N
reactant | dimethylaminopyridine | 2.44 mmol, 0.3 g | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 1-tert-butyloxycarbonyl-2-bromo ethylamine | 2.3 g, 42% yield | C(C)(C)(C)OC(=O)C(CBr)N | C7H14BrNO2
